US05731322
N,N Diethyl-3-oxobutyramide
40 g (0.31 mol) of ethyl acetoacetate and 24 g (0.33 mol) of diethylamine were stirred in a Parr apparatus at 150° C. for 10'. The crude mixture was distilled at 115°-120° C./9 mmHg, to give 32 g of the title compound.

reactant | ethyl acetoacetate | 0.31 mol, 40 g | C(CC(=O)C)(=O)OCC | C6H10O3
reactant | diethylamine | 0.33 mol, 24 g | C(C)NCC | C4H11N
product | N,N Diethyl-3-oxobutyramide | 32 g | C(C)N(C(CC(C)=O)=O)CC | C8H15NO2
